US06706725B1
e) (4-{2-[2-(2-Ethyl-[1,3]dioxolan-2-yl)-4-thienyl]-ethyl}-2-hydroxymethylphenyl)methanol
In a manner similar to that of Example 6(f), by reaction of 6.7 g (18 mmol) of dimethyl 4-{2-[2-(2-ethyl-[1,3]dioxolan-2-yl)-4-thienyl]ethyl}phthalate with 1.6 g (43 mmol) of lithium aluminium hydride, the desired product is obtained in the form of a colourless oil (m=5.3 g; Y=85%).

reactant | dimethyl 4-{2-[2-(2-ethyl-[1,3]dioxolan-2-yl)-4-thienyl]ethyl}phthalate | 18 mmol, 6.7 g | C(C)C1(OCCO1)C=1SC=C(C1)CCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C21H24O6S
reactant | lithium aluminium hydride | 43 mmol, 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (4-{2-[2-(2-Ethyl-[1,3]dioxolan-2-yl)-4-thienyl]-ethyl}-2-hydroxymethylphenyl)methanol | C(C)C1(OCCO1)C=1SC=C(C1)CCC1=CC(=C(C=C1)CO)CO | C19H24O4S
